US07135475B2
A mixture of 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester (500 mg, 1.35 mmol) in methanol at 25° C. was treated with a 1N aqueous sodium hydroxide solution (4.0 mL). The reaction was stirred at 25° C. for 24 h. At this time, the reaction mixture was poured into water (100 mL) and acidified with a 1N aqueous hydrochloric acid solution. This solution was extracted with ethyl acetate (2×150 mL). The organics were washed with a saturated aqueous sodium chloride solution (1×150 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid (326 mg, 67%) as a white solid: 1H NMR (DMSO-d6, 300 MHz) δ 8.37 (s, 1H), 7.39 (m, 9H), 7.05 (m, 6H), 3.82 (s, 3H).

reactant | 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester | 1.35 mmol, 500 mg | COC(=O)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O2
reactant | sodium hydroxide | 1N, 4.0 mL | [OH-].[Na+]
reactant | water | 100 mL | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid | 326 mg, 67% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=C1)C(=O)O | C22H17N3O2
